US07517873B2
To a mixture of 0.61 g, (0.00216 mole) of (rac)-2-chloro-7-methyl-9-(3-methyl-butyl)-5,7,8,9-tetrahydro-pyrimido[4,5-b][1,4]diazepin-6-one (VI-27), 0.2 mL (0.00324 mole) of iodomethane and 7 mL of N,N-dimethyl-formamide at 0 degrees, was added 0.13 g (0.00324 mole) of sodium hydride, 60% dispersion in mineral oil. The mixture was stirred at 0 degree for 1.5 hours, and then partitioned between ethyl acetate and water. The aqueous phase was extracted with ethyl acetate. The combined organic phases were washed successively with water and brine, dried over anhydrous magnesium sulfate, filtered and concentrated under reduced pressure. The residue was purified by silica gel chromatography, eluting with hexanes-ethyl acetate (100:0-60:40), to give 0.61 g of (rac)-2-chloro-5,7-dimethyl-9-(3-methyl-butyl)-5,7,8,9-tetrahydro-pyrimido[4,5-b][1,4]diazepin-6-one (VII-27). HRMS (ES+) m/z Calcd for C14H21ClN4O+H [(M+H)+]: 297.1477. Found: 297.1476.

reactant | (rac)-2-chloro-7-methyl-9-(3-methyl-butyl)-5,7,8,9-tetrahydro-pyrimido[4,5-b][1,4]diazepin-6-one | 0.00216 mole | ClC=1N=CC2=C(N(CC(C(N2)=O)C)CCC(C)C)N1 | C13H19ClN4O
reactant | iodomethane | 0.00324 mole, 0.2 mL | IC | CH3I
reactant | sodium hydride | 0.00324 mole, 0.13 g | [H-].[Na+]
solvent | N,N-dimethyl-formamide | 7 mL | CN(C=O)C | C3H7NO
product | (rac)-2-chloro-5,7-dimethyl-9-(3-methyl-butyl)-5,7,8,9-tetrahydro-pyrimido[4,5-b][1,4]diazepin-6-one | 0.61 g | ClC=1N=CC2=C(N(CC(C(N2C)=O)C)CCC(C)C)N1 | C14H21ClN4O
